US07456289B2
n-BuLi in hexane (1.6 M, 7.6 mL, 11.9 mmol) was added dropwise to a solution of diisopropylamine (1.089 g, 10.9 mmol) in THF (25 mL) at −60 to −70° C. under N2. The mixture was stirred for 10 min. A solution of 5-methoxy-2-methyl-pyridine (1.274 g, 10.35 mmol) in THF (5 mL) was added dropwise to the above mixture. Stirring was continued for another 10 min and 3,4,5-trimethoxybenzonitrile (1.88 g, 9.74 mmol) in THF (5 mL) was added at −70° C. The mixture was stirred at −78° C. for 1 h and then allowed to warm to room temperature. Stirring was continued for another 2 h and the reaction mixture was poured into an ice-cold aqueous NH4Cl solution. The organic layer was separated and the aqueous phase was extracted with ether. The combined organic layers were extracted with a dilute HCl solution. The aqueous layer was washed with ether, neutralized with 10% aqueous NaOH, and extracted with ether. The organic layer was washed with water and dried. The residue was purified by chromatography eluting with CH2Cl2 to give 2-(5-methoxypyridin-2-yl)-1-(3,4,5-trimethoxyphenyl)ethanone (2.31 g, 75.0%).

reactant | n-BuLi | [Li]CCCC
reactant | hexane | 11.9 mmol, 1.6 M, 7.6 mL | CCCCCC | C6H14
reactant | diisopropylamine | 10.9 mmol, 1.089 g | C(C)(C)NC(C)C | C6H15N
reactant | 5-methoxy-2-methyl-pyridine | 10.35 mmol, 1.274 g | COC=1C=CC(=NC1)C | C7H9NO
reactant | 3,4,5-trimethoxybenzonitrile | 9.74 mmol, 1.88 g | COC=1C=C(C#N)C=C(C1OC)OC | C10H11NO3
reactant | THF | 25 mL | C1CCOC1 | C4H8O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(5-methoxypyridin-2-yl)-1-(3,4,5-trimethoxyphenyl)ethanone | 2.31 g, 75.0% | COC=1C=CC(=NC1)CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C17H19NO5
